US07893062B2
To a stirred solution of bromo-acetyl chloride (0.80 g, 4 mmol) in CH2Cl2 (5 ml) at 0° C. was added over 1 hour a solution of rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-[(3S,4R)-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide (pyrrolidine interm. VII-4 described herein above, 0.94 g, 1.97 mmol) and ethyl-diisopropyl-amine (0.37 ml, 2.17 mmol) in CH2Cl2 (10 mL). The reaction was stirred over night, quenched by addition of an aqueous solution of NaHCO3, and the product extracted with CH2Cl2. Purification by flash chromatography (SiO2, EtOAc/Hx 1:1) yielded 0.83 g (70%) of rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-[(3S,4R)-1-(2-bromo-acetyl)-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide as a white foam.

reactant | bromo-acetyl chloride | 4 mmol, 0.80 g | BrCC(=O)Cl | C2H2BrClO
reactant | rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-[(3S,4R)-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)[C@@H]1CNC[C@H]1C1=CC=C(C=C1)F)(C)C)(F)F | C23H23F7N2O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | ethyl-diisopropyl-amine | 2.17 mmol, 0.37 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | rac-2-(3,5-bis-trifluoromethyl-phenyl)-N-[(3S,4R)-1-(2-bromo-acetyl)-4-(4-fluoro-phenyl)-pyrrolidin-3-yl]-N-methyl-isobutyramide | 0.83 g, 70% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)F)C(CBr)=O)(C)C)(F)F | C25H24BrF7N2O2
